US07820821B2
Benzylbromide (3 mmol) and K2CO3 (6 mmol) were added to a solution of 2-nitroimidazole (2 mmol) in DMF (6 mL). The mixture was stirred at 60-70° C. for 4 h or overnight. The contents were cooled to room temperature, and water (30 mL) was added. The mixture was extracted with EtOAc (3×15 mL). The combined extracts were dried over MgSO4, filtered, and the solvent was removed in vacuo to afford 1-benzyl-2-nitro-1H-imidazole. The product used for further transformation without further purification.

reactant | Benzylbromide | 3 mmol | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 6 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-nitroimidazole | 2 mmol | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | water | 30 mL | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-2-nitro-1H-imidazole | C(C1=CC=CC=C1)N1C(=NC=C1)[N+](=O)[O-] | C10H9N3O2
